US05519138
a) 2-n-Propyl-5-(2-methyl-propionylamino)-imidazo[4,5-b]pyridine
2.62 g (15 mMol) of 2-n-propyl-5-amino-imidazo[4,5-b]pyridine are suspended in 100 ml of absolute methylene chloride and 3.16 g (30 mMol) of isobutyric acid chloride are added, with stirring and cooling with ice. Then, at -5° C., a solution of 3.03 g (30 mMol) of triethylamine in 5 ml of methylene chloride is added dropwise. After one hour at ambient temperature the reaction mixture is combined with 100 ml of 2N hydrochloric acid and the mixture is stirred for a further hour. Then the solution is poured onto ice water and mixed with saturated sodium hydrogen carbonate solution. The aqueous phase is extracted 3 times with 100 ml of ethyl acetate, the combined organic phases are then washed with saline solution, dried over sodium sulphate and concentrated by evaporation. The crude product is taken up in methylene chloride and purified over a silica gel column (particle size 0.063-0.2 mm), using as eluant methylene chloride to begin with, followed by mixtures of methylene chloride and ethanol of increasing polarity (25:1 and 19:1). The unified fractions are concentrated by evaporation and the residue is triturated with petroleum ether/ether=1:1 and suction filtered.

reactant | 2-n-propyl-5-amino-imidazo[4,5-b]pyridine | 15 mMol, 2.62 g | C(CC)C=1NC=2C(=NC(=CC2)N)N1 | C9H12N4
reactant | isobutyric acid chloride | 30 mMol, 3.16 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 30 mMol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-n-Propyl-5-(2-methyl-propionylamino)-imidazo[4,5-b]pyridine | C(CC)C=1NC=2C(=NC(=CC2)NC(C(C)C)=O)N1 | C13H18N4O
